US06780996B2
A mixture of 4-chloro-7-fluoro-6-methoxy-3-quinolinecarbonitrile (400 mg, 1.69 mmol) and cyclopentylamine (307 mg, 3.72 mmol) in 11 mL of 2-ethoxyethanol is heated at 100° C. for 1.5 hours then cooled to room temperature. The reaction mixture is concentrated in vacuo and aqueous sodium bicarbonate is added to the residue. After stirring for 20 minutes, the solids are collected by filtration. Purification by preparative thin layer chromatography, eluting with 5% methanol in dichloromethane, followed by trituration with diethyl ether and hexane, provides 359 mg of 4-cyclopentylamino-7-fluoro-6-methoxy-3-quinolinecarbonitrile, mp 162-164° C.

reactant | 4-chloro-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 1.69 mmol, 400 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C11H6ClFN2O
reactant | cyclopentylamine | 3.72 mmol, 307 mg | C1(CCCC1)N | C5H11N
solvent | 2-ethoxyethanol | 11 mL | C(C)OCCO | C4H10O2
product | 4-cyclopentylamino-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 359 mg | C1(CCCC1)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C16H16FN3O
